US06437146B1
To a solution of tert-butyl[2-(4-hydroxyphenyl)-ethyl]carbamate (5.69 g, 24.0 mmol) and 2,6-lutidine (5.59 ml, 48.0 mmol) in methylene chloride (85 ml) was added trifluoromethanesulfonic anhydride (5.0 ml, 29.7 mmol) at 5° C. and the mixture was stirred for 30 min. The solvent was removed in vacuo and the residue was diluted with EtOAc, washed with 1N-hydrochloric acid, water, saturated sodium hydrogencarbonate solution, water and brine successively, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by silica gel column chromatography (hexane:EtOAc, 5:1) to give 4-[2-(tert-butoxycarbonylamino)-ethyl]phenyl trifluoromethanesulfonate (6.15 g, 69%).

reactant | tert-butyl[2-(4-hydroxyphenyl)-ethyl]carbamate | 24.0 mmol, 5.69 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | 2,6-lutidine | 48.0 mmol, 5.59 ml | N1=C(C=CC=C1C)C | C7H9N
reactant | trifluoromethanesulfonic anhydride | 29.7 mmol, 5.0 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 85 ml | C(Cl)Cl | CH2Cl2
product | 4-[2-(tert-butoxycarbonylamino)-ethyl]phenyl trifluoromethanesulfonate | 6.15 g, 69% | FC(S(=O)(=O)OC1=CC=C(C=C1)CCNC(=O)OC(C)(C)C)(F)F | C14H18F3NO5S
